US04722929
2-(2-Dimethylamino-4-amino-phenyl)-4H-imidazo[4,5-b]-pyridin-5-one hydrochloride
An amount of 1.7 gm of 2-(2-dimethylamino-4-nitro-phenyl)-4H-imidazo[4,5-b]pyridin-5-one is dissolved in 20 ml of dimethylformamide and mixed with 0.2 gm of 10% palladium/charcoal. The mixture is hydrogenated for three hours with hydrogen at ambient temperature under 5 bars of pressure. The mixture is filtered off from the catalyst, the mother liquor is mixed with 100 ml each of ether and of ethyl acetate, and finally 3 ml of etheral hydrochloric acid are added. The precipitate is recrystallized from methanol. After drying over phosphorus pentoxide and potassium hydroxide, a product is obtained which contains 1.5 mol of hydrochloric acid and 0.5 mol of water to 1 mol of base.

reactant | 2-(2-dimethylamino-4-nitro-phenyl)-4H-imidazo[4,5-b]pyridin-5-one | 1.7 gm | CN(C1=C(C=CC(=C1)[N+](=O)[O-])C1=NC=2C(NC(CC2)=O)=N1)C | C14H13N5O3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1.5 mol | Cl | ClH
reactant | water | 0.5 mol | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | palladium/charcoal | 0.2 gm | [Pd] | Pd
product | 2-(2-Dimethylamino-4-amino-phenyl)-4H-imidazo[4,5-b]-pyridin-5-one hydrochloride | Cl.CN(C1=C(C=CC(=C1)N)C1=NC=2C(NC(CC2)=O)=N1)C | InChI=1S/C14H15N5O.ClH/c1-19(2)11-7-8(15)3-4-9(11)13-16-10-5-6-12(20)17-14(10)18-13;/h3-5,7H,6,15H2,1-2H3,(H,16,17,18,20);1H
